US08357693B2
To a mixture of 2-(4-(1H-indazol-5-ylamino)-2-[(3-phenyl)phenyl)-7-methoxyquinazolin-6-yloxy)acetic acid (0.25 g, 0.48 mmole) in DMF (1 mL)/CH2Cl2 (7 mL) was added PyBOP® (0.25 g, 0.48 mmole), and DIEA (0.186 g, 0.251 mL, 1.44 mmole). The mixture was then stirred for 15 minutes and 1-methylpiperazine (0.048 g, 0.053 mL, 0.48 mmole) was added and the reaction was stirred at RT for 3 h. The volatiles were then removed in vacuo. Upon adding CH2Cl2, the crude product precipitated and was subsequently filtered. The cake was washed with ether, hexane, CH3OH, CH2Cl2 and finally hexane. The crude product was purified by reverse phase HPLC (25 to 55% CH3CN/H2O, 90 minute run time) to yield 2-(4-(1H-indazol-5-ylamino)-2-[(3-phenyl)phenyl)-7-methoxyquinazolin-6-yloxy)-1-(4-methylpiperazin-1-yl)ethanone (0.015 g, 5%). MS 600 (M+1). HPLC retention time 5.22 mins.

reactant | 2-(4-(1H-indazol-5-ylamino)-2-[(3-phenyl)phenyl)-7-methoxyquinazolin-6-yloxy)acetic acid | 0.48 mmole, 0.25 g | N1N=CC2=CC(=CC=C12)NC1=NC(=NC2=CC(=C(C=C12)OCC(=O)O)OC)C1=CC(=CC=C1)C1=CC=CC=C1 | C30H23N5O4
reactant | PyBOP | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | DIEA | 1.44 mmole, 0.251 mL, 0.186 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-methylpiperazine | 0.48 mmole, 0.053 mL, 0.048 g | CN1CCNCC1 | C5H12N2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-(1H-indazol-5-ylamino)-2-[(3-phenyl)phenyl)-7-methoxyquinazolin-6-yloxy)-1-(4-methylpiperazin-1-yl)ethanone | 0.015 g, 5% | N1N=CC2=CC(=CC=C12)NC1=NC(=NC2=CC(=C(C=C12)OCC(=O)N1CCN(CC1)C)OC)C1=CC(=CC=C1)C1=CC=CC=C1 | C35H33N7O3
